US07642264B2
5-{3-[4-Trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidin-2-yl]-[1,2,4]oxadiazol-5-yl}-pyridin-2-ylamine
The title compound was prepared from N-hydroxy-4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidine-2-carboxamidine (example C.2) (0.176 g, 0.5 mmol) and commercially available 6-amino-nicotinic acid (0.07 g, 0.5 mmol) according to the general procedure V. Obtained as an off-white solid (0.055 g, 24%). MS (ISP) 453.1 [(M+H)+]; mp 205° C.

reactant | N-hydroxy-4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidine-2-carboxamidine | 0.5 mmol, 0.176 g | ONC(=N)C1=NC(=CC(=N1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F | C13H8F6N4O
reactant | 6-amino-nicotinic acid | 0.5 mmol, 0.07 g | NC1=NC=C(C(=O)O)C=C1 | C6H6N2O2
product | 5-{3-[4-Trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidin-2-yl]-[1,2,4]oxadiazol-5-yl}-pyridin-2-ylamine | FC(C1=NC(=NC(=C1)C1=CC=C(C=C1)C(F)(F)F)C1=NOC(=N1)C=1C=CC(=NC1)N)(F)F | C19H10F6N6O
